US04917826
11-Cyclohexyl-14,15-diaza-7-thiadispiro(5.1.5.2)-pentadec-14-en-4-one (2',2'-Dimethyltrimethylene)ketal
Powdered calcium carbonate (102 g) was suspended in hexane (1.5l), lead tetra-acetate (99.8 g) was added, and the mixture was stirred at 0° C. for 30 minutes. The hydrazine 11-cyclohexyl-14,15-diaza-7-thiadispiro (5.1.5.2) pentadecan-4-one (2',2'-dimethyltrimethylene)ketal (0.15 mol) in hexane (2.5 1) (not completely soluble so the insoluble solids were added as a suspension) was added over a period of one hour at 0° C. The reaction mixture was stirred and allowed to warm to 20° C. over a two-hour period. A TLC at this time showed the reaction to be complete. Saturated aqueous sodium bicarbonate was added, the mixture was filtered, and the filtrate was washed with saturated NaHCO3 and with water and then dried over Na2SO4. The dry solution was filtered and concentrated under reduced pressure, giving 45.5 g of solid. This solid was chromatographed over silica gel (1.9 kg, 5% ethyl acetate-hexane) and the desired product was eluted after increasing the solvent polarity to 40% ethyl acetate-hexane. A sample was recrystallized twice from pentane, giving white crystals: IR 1586, 1448, 1446, 1439, 1367, 1363, 1290, 1258, 1152, 1136, 1124, 1110, 1058, 1045, 1018, 980, 972, 967, 955, 910, 904 cm-1.

reactant | calcium carbonate | 102 g | C([O-])([O-])=O.[Ca+2]
reactant | lead tetra-acetate | 99.8 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | hydrazine 11-cyclohexyl-14,15-diaza-7-thiadispiro (5.1.5.2) pentadecan-4-one (2',2'-dimethyltrimethylene)ketal | 0.15 mol | CC1(COC2(CCCC3(C2)SC2(CCC(CC2)C2CCCCC2)NN3)OC1)C.NN
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hexane | 1.5l | CCCCCC | C6H14
product | 11-Cyclohexyl-14,15-diaza-7-thiadispiro(5.1.5.2)-pentadec-14-en-4-one (2',2'-Dimethyltrimethylene)ketal | 45.5 g | CC1(COC2(CCCC3(C2)SC2(CCC(CC2)C2CCCCC2)N=N3)OC1)C | C23H38N2O2S
